US06552069B1
A solution of potassium hydroxide (53.59 g, 955.09 mmol) in water (200 ml) was added to a solution of diethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)malonate (19.4 g, 47.75 mmol) in ethanol (400 ml), followed by stirring for 6 hours at 60° C. After the reaction was completed, the reaction mixture was adjusted to pH 5 at room temperature by slowly adding 1N hydrochloric acid dropwise, and then extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was stirred in dimethyl sulfoxide for 18 hours at 170° C. After the reaction was completed, water was added to the reaction mixture, which was then extracted three times with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, anhydrous tetrahydrofuran (200 ml) was added to the residue and the resulting mixture was cooled to −30° C. Borane-methyl sulfide complex (10M in THF, 8.5 ml, 85 mmol) was slowly added dropwise to this mixture, followed by stirring for 3 hours at room temperature. After treatment with methanol at 0° C., water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/20) to give 5,5,6,6,7,7,8,8,8-nonafluorooctan-1-ol (9.4 g, Yield 60%).

reactant | potassium hydroxide | 955.09 mmol, 53.59 g | [OH-].[K+]
reactant | diethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)malonate | 47.75 mmol, 19.4 g | FC(CCC(C(=O)OCC)C(=O)OCC)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H15F9O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Borane methyl sulfide | 85 mmol, 10M, 8.5 ml | B.CSC
solvent | water | 200 ml | O | H2O
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 5,5,6,6,7,7,8,8,8-nonafluorooctan-1-ol | 9.4 g, Yield 60% | FC(CCCCO)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H9F9O
